US03996374
15.0 G. of 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester are reacted with 25.8 g. of 2-[(benzyloxycarbonyl)amino]ethyl bromide in a manner analogous to that described in Example 14. Thereafter, there is obtained an oily crude product, which is chromatographed on 250 g. of silica gel with methylene chloride/ethyl acetate (4:1) as the eluant. From the uniform fractions there is obtained 2-{2-[(benzyloxycarbonyl)amino]ethyl}-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester; melting point 102°-104° C. Recrystallization from ethanol increases the melting point to 104°-105° C.

reactant | 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C17H14ClNO2
reactant | 2-[(benzyloxycarbonyl)amino]ethyl bromide | C(C1=CC=CC=C1)OC(=O)NCCBr | C10H12BrNO2
product | 2-{2-[(benzyloxycarbonyl)amino]ethyl}-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCNC(=O)OCC1=CC=CC=C1 | C27H25ClN2O4
